US06103725
Sodium hydride (0.05 mol) was added portionwise to a solution of N-phenyl-2-benzothiazolamine, prepared according to the procedure described in J. Chem. Soc, 1962, 230, (0.05 mol) in tetrahydrofuran (200 ml). The mixture was stirred for 15 minutes. A solution of 1-bromo-4-chlorobutane (0.05 mol) in tetrahydrofuran (50 ml) was added dropwise and the resulting reaction mixture was stirred and refluxed for 48 hours. The mixture was cooled, and the solvent was evaporated. The residue was partitioned between water and CH2Cl2. The organic layer was separated, dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2). The desired fractions were collected and the solvent was evaporated, yielding 10.4 g (66%) of N-(4-chlorobutyl)-N-phenyl-2-benzothiazolamine (interm. 10).

reactant | Sodium hydride | 0.05 mol | [H-].[Na+]
reactant | N-phenyl-2-benzothiazolamine | C1(=CC=CC=C1)NC=1SC2=C(N1)C=CC=C2 | C13H10N2S
reactant | 1-bromo-4-chlorobutane | 0.05 mol | BrCCCCCl | C4H8BrCl
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(4-chlorobutyl)-N-phenyl-2-benzothiazolamine | 10.4 g, 66% | ClCCCCN(C=1SC2=C(N1)C=CC=C2)C2=CC=CC=C2 | C17H17ClN2S
